US06794397B2
6-Chloro-N-(2,3-dinitro-4-methoxyphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2,3-dinitro-4-methoxyaniline as a white solid as described in Example 1. 1H NMR (CDCl3): 9.99 (s, 1H), 8.96 (d, J=2.4, 1H), 8.77 (d, J=9.3, 1H), 8.18-8.14 (m, 1H), 7.53 (d, J=9.0, 1H), 7.45 (d, J=9.3, 1H), 4.02 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2,3-dinitro-4-methoxyaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1[N+](=O)[O-])OC | C7H7N3O5
product | 6-Chloro-N-(2,3-dinitro-4-methoxyphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C(=C(C=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C13H9ClN4O6
